US06649600B1
(1RS,2R,5SR)-{[5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.2.1]octane-1-carbonyl]-amino}-phenylacetic acid
A solution of (1RS,2R,5SR)-{[5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo-[3.2.1]octane-1-carbonyl]-amino}-phenyl-acetic acid methyl ester (0.022 mmol, 0.012 g) in THF (2 ml) was treated with 1N LiOH (0.22 ml) for 3d. The THF was removed on the rotovap, the aqueous residue acidified (pH 2) with 1N HCl and extracted with EtOAc. The combined organics were washed with H2O, brine and dried (MgSO4). Filtration and evaporation followed by reverse phase HPLC purification provide the desired product (0.0055 g, 48%) as a mixture of diastereomers. HPLC (10% to 90% MeCN (0.1% TFA)/H2O (0.1% TFA), YMC 120 A/S-5 ODS-AM column, 100 mm×4.6 mm, 1.5 ml/min: RT.=6.88 min.

reactant | (1RS,2R,5SR)-{[5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo-[3.2.1]octane-1-carbonyl]-amino}-phenyl-acetic acid methyl ester | 0.022 mmol, 0.012 g | COC([C@@H](C1=CC=CC=C1)NC(=O)C12CCCC(CC1)(C2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC)=O | C29H37N5O5
reactant | LiOH | 1N, 0.22 ml | [Li+].[OH-]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (1RS,2R,5SR)-{[5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.2.1]octane-1-carbonyl]-amino}-phenylacetic acid | 0.0055 g, 48% | O=C1N(C(C=2NC(=NC2N1CCC)C12CCCC(CC1)(C2)C(=O)N[C@@H](C(=O)O)C2=CC=CC=C2)=O)CCC | C28H35N5O5
